US05387352
Phosphoryl trichloride (306 g; 2 moles) is placed in a 2-liter flask fitted with a condenser and mechanical stirrer, and cooled down to about 10° C. (external ice bath). Pentanol (159 g; 1.8 moles; 0.9 equivalents with respect to POCl3) is added at a rate such that the reaction temperature remains below 15° C. The reaction is exothermic and the HCl gas that evolves during this reaction is vented out with a flow of nitrogen using an aspirator operated at a slight vacuum (about 0.5 inches of mercury). When addition of alcohol is completed (about 1.5 hours), the ice bath is removed and the reaction mixture is allowed to warm to room temperature and then warmed to 60°-70° C. and stirred at this temperature for 1.5 hours to drive out most of the HCl gas. The product, pentyl phosphorodichloridate, is obtained as a clear light yellow free-flowing liquid.

reactant | Phosphoryl trichloride | 2 moles, 306 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Pentanol | 1.8 moles, 159 g, 0.9 equivalents | C(CCCC)O | C5H12O
reactant | HCl | Cl | ClH
product | pentyl phosphorodichloridate | P(OCCCCC)(=O)(Cl)Cl | C5H11Cl2O2P
